US06800637B2
1-Methyl-3-{3-[(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-proyl}-1H-indole-5-carbonitrile
A solution of (2R)-4-bromobenzenesulfonic acid-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester (0.5 g, 1.1 mmol), 3-(5-cyano-1-methyl-indol-3-yl)propylamine (0.33 g, 1,4 mmol) and triethylamine (0.23 mL, 2.2 mmol) in dimethylsulfoxide (20 mL) was heated at 90° C. under nitrogen for 16 hours. The reaction mixture was quenched with 1N sodium hydroxide and extracted with methylene chloride (3×100 mL). The organic layer was washed with water (3×150 mL), dried over anhydrous sodium sulfate, filtered and the solvent was removed under vacuum. The crude oil was column chromatographed on silica gel (10% methanol-ethyl acetate). The product-containing fractions were concentrated in vacuum to give 0.2 g of the (S)-enantiomer of the title compound as a brown oil. The dihydrochloride salt was prepared in ethyl acetate as a yellow solid (decomposed at 148° C.).

reactant | (2R)-4-bromobenzenesulfonic acid-8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl ester | 1.1 mmol, 0.5 g | CC1=NC2=CC=C3C(=C2C=C1)O[C@H](CO3)COS(=O)(=O)C3=CC=C(C=C3)Br | C19H16BrNO5S
reactant | 3-(5-cyano-1-methyl-indol-3-yl)propylamine | 1,4 mmol, 0.33 g | C(#N)C=1C=C2C(=CN(C2=CC1)C)CCCN | C13H15N3
reactant | triethylamine | 2.2 mmol, 0.23 mL | C(C)N(CC)CC | C6H15N
solvent | dimethylsulfoxide | 20 mL | CS(=O)C | C2H6OS
product | 1-Methyl-3-{3-[(8-methyl-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-2-ylmethyl)-amino]-proyl}-1H-indole-5-carbonitrile | CN1C=C(C2=CC(=CC=C12)C#N)CCCNCC1COC=2C(=C3C=CC(=NC3=CC2)C)O1 | C26H26N4O2
